US04172151
A solution of 15 g. (0.050 mole) of 4-(4'-aminophenyl)-2,6-di(t-butyl)phenol in 100 ml. of glacial acetic acid is treated with 5.2 g. (0.050 mole) of acetic anhydride. The resulting solution is heated gently for 10 minutes, diluted with water, cooled, and the solid product is separated by filtration. Recrystallization from a benzene-hexane mixture provides 4-(4'-acetamidophenyl)-2,6-di(t-butyl)phenol, m.p. 173°-174.5° C.

reactant | 4-(4'-aminophenyl)-2,6-di(t-butyl)phenol | 0.050 mole | NC1=CC=C(C=C1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C20H27NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 0.050 mole | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 4-(4'-acetamidophenyl)-2,6-di(t-butyl)phenol | C(C)(=O)NC1=CC=C(C=C1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C22H29NO2
